US03948803
To a stirred solution of 1.15 moles of amylmagnesium bromide in 335 ml. anhydrous tetrahydrofuran at -8° is added 0.028 moles of lithium chlorocyanocuprate in tetrahydrofuran, prepared in Example 1 above. Dropwise addition of 1.00 moles of Z-9-octadecenyl bromide is carried out with cooling to maintain the temperature at from about -6° to +5°. The reaction mixture is maintained at -5° to +5° for 1 hour. Magnesium bromide is precipitated by the addition of hexane and a minor amount of water. The slurry of granular solid is filtered and washed with hexane. Evaporation of solvent from the filtrate gives a clear amber oil of Z-9-tricosene in 99% yield.

reactant | amylmagnesium bromide | 1.15 moles | C(CCCC)[Mg]Br
reactant | Z-9-octadecenyl bromide | 1.00 moles | C(CCCCCCC\C=C/CCCCCCCC)Br | C18H35Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Z-9-tricosene | 99% yield | CCCCCCCC\C=C/CCCCCCCCCCCCC | C23H46
